data/mechanism_extracts/JOC/10.1021_acs.joc.3c00790_sup_1.json
{"doi": "10.1021_acs.joc.3c00790_sup_1", "journal": "JOC", "is_review": false, "rxn_class_summary": "Photoelectrochemical radical trifluoromethylation/cyclization of N-aryl-N-benzyl methacrylamides with CF3SO2Na to afford 3-CF3-substituted pyrrolin-2-ones (3-CF3 oxindole/pyrrolinone-type products)", "mechanism_family": ["radical_anodic", "photoredox_combined", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation (assisted by photoexcited Mes-Acr+ photocatalyst under 455 nm irradiation) generates CF3• from CF3SO2Na via SET/desulfonylation; the Pt cathode reduces protons to H2 to close the redox cycle", "key_intermediates": [{"name": "Photoexcited Mes-Acr+* (strongly oxidizing excited state)", "smiles": null, "role": "reactive"}, {"name": "CF3 radical from desulfonylation of CF3SO2Na", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "Carbon-centered radical from CF3 addition to methacrylamide alkene", "smiles": null, "role": "transient"}, {"name": "Cyclized carbocation/enamide-derived intermediate after intramolecular addition onto the N-vinyl group", "smiles": null, "role": "transient"}, {"name": "Mes-Acr• (reduced acridine radical), reoxidized at the anode", "smiles": null, "role": "resting_state"}], "electron_flow": "Under 455 nm light, Mes-Acr+* oxidizes CF3SO2Na to generate CF3•, which adds to the methacrylamide alkene; the resulting C-radical cyclizes onto the pendant enamide and is further oxidized (by Mes-Acr+* or at the anode) to a cation that loses a proton to give the pyrrolinone product, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["on/off_light_or_current", "cyclic_voltammetry", "other"], "evidence_strength": "medium", "notes": "Mechanistic section (per TOC) includes electricity on/off experiments (demonstrating need for continuous current/light), cyclic voltammetry studies (to assign oxidation events), and H2 detection tests at the cathode confirming proton reduction as the counter-reaction. PC screening (Table S7) shows Mes-Acr+ClO4- is optimal (81%) and that an added supporting electrolyte (Bu4NBF4, LiClO4) actually lowers yield, suggesting the photocatalyst plus KPF6/Cs2CO3 alone suffice for SET. Detailed radical-trap experiments (TEMPO/BHT) are not visible in the provided pages."}
